US07410966B2
6-Bromo-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 5-bromo-2,3-diaminopyridine (0.94 g, 5 mmol) and 4-nitrobenzaldehyde (0.76 g, 5 mmol).

reactant | 5-bromo-2,3-diaminopyridine | 5 mmol, 0.94 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 4-nitrobenzaldehyde | 5 mmol, 0.76 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 6-Bromo-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-] | C12H7BrN4O2
